US07786307B2
a) tert-Butyl (1(S)-(1(S)-hydroxy-2-piperidin-1-ylethyl)-3(S)-{[2-(3-methoxypropoxy)-benzoylamino]methyl}-4-methylpentyl)carbamate
A solution of 0.030 g of tert-butyl (3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methyl-1(S)—(R)-oxiranylpentyl)carbamate in 0.60 ml of isopropanol and 0.050 ml of piperidine is stirred at 70° C. over 1 hour. The reaction mixture is concentrated by evaporation, and the residue is admixed with water and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a slightly yellowish oil. Rf=0.34 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=4.08 (gradient I).

reactant | tert-butyl (3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methyl-1(S)—(R)-oxiranylpentyl)carbamate | 0.030 g | COCCCOC1=C(C(=O)NC[C@@H](C[C@@H]([C@H]2OC2)NC(OC(C)(C)C)=O)C(C)C)C=CC=C1 | C25H40N2O6
reactant | piperidine | 0.050 ml | N1CCCCC1 | C5H11N
solvent | isopropanol | 0.60 ml | C(C)(C)O | C3H8O
product | tert-Butyl (1(S)-(1(S)-hydroxy-2-piperidin-1-ylethyl)-3(S)-{[2-(3-methoxypropoxy)-benzoylamino]methyl}-4-methylpentyl)carbamate | O[C@@H](CN1CCCCC1)[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O | C30H51N3O6
